US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-imidazo[1,2-a]pyrazine-2-carboxamide
The title compound was prepared as described in Example 34(d), starting from imidazo[1,2-a]pyrazine-2-carboxylic acid (0.163 g, 0.997 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.2 g, 0.767 mmol). The product was purified with flash-chromatography. Yield 90%. 1H-NMR (400 MHz; CDCl3): δ 1.18 (d, 3H), 4.35 (dd, 1H), 4.43 (dd, 1H), 4.47-4.57 (m, 1H), 6.93 (d, 1H), 7.85 (d, 1H), 7.94-8.00 (m, 3H), 8.03-8.06 (m, 1H), 8.47 (d, 1H), 8.60 (dd, 1H), 8.73 (d, 1H), 9.14-9.16 (m, 1H).

reactant | imidazo[1,2-a]pyrazine-2-carboxylic acid | 0.997 mmol, 0.163 g | N=1C(=CN2C1C=NC=C2)C(=O)O | C7H5N3O2
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.767 mmol, 0.2 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-imidazo[1,2-a]pyrazine-2-carboxamide | Yield 90% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C2N(C=CN=C2)C1 | C20H16ClN7O
